US07423035B2
a) 8-benzyloxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one
587 mg (2.0 mmol) 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one and 480 mg (2.7 mmol) 1-(4-methoxy-benzyl)-cyclopropylamine are refluxed in 10 mL n-butanol for 10 hours. Then the solvent is distilled off and the residue is purified by chromatography (reverse phase, water/acetonitrile gradient). Yield: 259 mg (27%); mass spectroscopy: [M+H]+=471.

reactant | 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one | 2.0 mmol, 587 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C1OC1 | C18H15NO3
reactant | 1-(4-methoxy-benzyl)-cyclopropylamine | 2.7 mmol, 480 mg | COC1=CC=C(CC2(CC2)N)C=C1 | C11H15NO
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 8-benzyloxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC1(CC1)CC1=CC=C(C=C1)OC)O | C29H30N2O4
